US08232289B2
[4-[(2-Chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-1-(3-methyl-2-pyridyl)pyrazol-3-yl]methanol
The title compound is prepared essentially as described in Example 60 by using 2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]hydrochloride and 1-(3-methylpyridin-2-yl)-4-formyl-pyrazole-3-carboxylate as starting materials in a 14% yield. MS (m/z): 481 (M+1).

reactant | 2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]hydrochloride | Cl.ClC1=CC2=C(C3(OCC2(F)F)CCNCC3)S1
reactant | 1-(3-methylpyridin-2-yl)-4-formyl-pyrazole-3-carboxylate | CC=1C(=NC=CC1)N1N=C(C(=C1)C=O)C(=O)[O-]
product | [4-[(2-Chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-1-(3-methyl-2-pyridyl)pyrazol-3-yl]methanol | 14% yield | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1C)CO)OCC2(F)F | C22H23ClF2N4O2S
